Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, chest tightness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with multiple medical problems: h/o CAD (NSTEMI s/p DES to 
mid-LAD, upper pole of diagonal, and distal RCA on ___, 
hypertension, mild aortic regurgitation, chronic kidney disease, 
HIV, HCV cirrhosis, COPD, presents with left-sided chest pain 
starting at 7am this morning which woke him from sleep. Patient 
reports that the pain is dull and left sided, and the patient 
reports that it has a sensation of tightness. He reports "it 
feels more like my COPD". Reports no exertional component. 
Received nitroglycerin spray x2 and aspirin en route via EMS.  
Minimal relief with nitroglycerin spray.

Hospitalized ___ for chest pain similar to NSTEMI pain, but 
was thought to be non-cardiac.  Has had several ED visits for 
chest pain this year, ruled out for MI.  Stress test in ___ was 
negative, but pt was only able to complete small portion of the 
exam due to exercise intolerance.  Has had no chest pain since 
his last ED visit 1 month ago.  At baseline, he gets short of 
breath with very minimal activity, but this has been stable. 

Denies fever/chills/nausea/vomiting/dysuria/diarrhea.  Denies 
headache.

ED Course (labs, imaging, interventions, consults): 
- Initial Vitals/Trigger: 98.0 72 127/74 20 100% 2L Nasal 
Cannula 
Labs and imaging significant for
- EKG: NSR @ 69, NA, NI, no STE
- Troponin < 0.01
- Hyponatremia - Na 121
- Hyperkalemia - K 5.7, no EKG changes suggestive of 
hyperkalemia
- CXR - no acute cardiopulmonary process
Patient given:
- nitroglycerin gtt for chest pain
- insulin & glucose, kayexelate for hyperkalemia
- nebs for COPD
Admitted to ___ for further workup and management of chest 
pain.  

Vitals on transfer were 61 142/82 18 100%
On arrival to the floor, patient is comfortable and has no acute 
complaints.  Denies chest pain, chest tightness, or dyspnea.

ROS: Positive for leg fatigue with exertion, dyspnea with ___ 
steps of walking.  Sleeps with 2 pillows.  No cough, fevers, 
chills.
 
Past Medical History:
# CAD s/p Promus DES to mid-LAD, D1 branch, and distal-RCA on
___
# HTN
# Mild AR
# CKD
# SIADH
# HIV, CD4 481 in ___
# HCV cirrhosis c/b portal HTN
# COPD
# GERD
# chronic diarrhea
# cervical stenosis s/p surgery
# colonic polyps
# anemia of chronic disease 
# G6PD deficiency,
# peripheral neuropathy
# ? pulmonary TB ___ - while working at ___, treated for 9 mos
# +RPR treated in the ___
# h/o prostatitis ___
 
Social History:
___
Family History:
Brother - TB
Mother - heart problems 
No premature CAD

 
Physical Exam:
PHYSICAL EXAMINATION:  
VS- T 97.8, BP 159/77, HR 72, RR 18, 100%RA

GENERAL- Elderly black male in NAD. Mood, affect appropriate.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple with JVP of 10 cm.  
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS- Resp were unlabored, no accessory muscle use. no wheezes 
or rhonchi. slight bibasilar crackles
ABDOMEN- Soft, nontender. Distended.  No palpable liver edge.  
No shifting dullness or fluid wave.  No stigmata of cirrhosis. 
EXTREMITIES- No c/c/e. No femoral bruits.  
SKIN- No ulcers.  Dry cracked skin bilateral feet, 
hyperkeratotic nails.  
PULSES-  
Right: Carotid 2+ ___ 1+  
Left: Carotid 2+ ___ 1+  

DISCHARGE PHYSICAL EXAM:
No wheezes, crackles, rales
Gait steady but slow, ambulating around floor without marked 
dyspnea
 
Pertinent Results:
ADMISSION LABS
___ 12:45PM   GLUCOSE-118* UREA N-12 CREAT-1.1 SODIUM-121* 
POTASSIUM-5.7* CHLORIDE-92* TOTAL CO2-23 ANION GAP-12
___ 12:45PM   WBC-3.3* RBC-2.91* HGB-9.6* HCT-29.1* 
MCV-100* MCH-33.0* MCHC-33.1 RDW-12.0
___ 12:45PM   NEUTS-47* BANDS-0 ___ MONOS-7 EOS-4 
BASOS-0 ATYPS-2* ___ MYELOS-0
___ 12:45PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 12:45PM   PLT SMR-NORMAL PLT COUNT-175

CARDIAC ENZYMES
___ 12:45PM BLOOD cTropnT-<0.01
___ 07:22PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:32AM BLOOD cTropnT-<0.01

DISCHARGE LABS
___ 05:32AM BLOOD Glucose-92 UreaN-13 Creat-1.0 Na-126* 
K-5.1 Cl-94* HCO3-25 AnGap-12
___ 05:32AM BLOOD WBC-3.6* RBC-3.04* Hgb-10.0* Hct-30.1* 
MCV-99* MCH-32.8* MCHC-33.1 RDW-12.3 Plt ___

___ CHEST X-RAY
IMPRESSION:  No acute findings in the chest.

REVIEW OF RECENT STUDIES
___ 2D-ECHOCARDIOGRAM:  Normal regional/global systolic 
function.  LVEF 70%.  PCWP < 12mmHg.  Mild 1+ aortic regurg.

___ ETT:  
 IMPRESSION: No anginal symptoms or significant ST segment 
changes from baseline at the workload achieved. Poor exercise 
tolerance.  The patient exercised for 6.25 minutes on 
a Gervino protocol and was stopped at the patient's request 
secondary to fatigue/leg fatigue. The estimated peak MET 
capacity was 3.6 which represents a poor exercise tolerance for 
his age. 

___ STRESS:
IMPRESSION: No significant ECG changes noted. NO anginal type 
symptoms 
reported. Appropriate hypotensive response to Persantine. 
IMPRESSION: Normal myocardial perfusion study.  LVEF 65%.
 
Brief Hospital Course:
___ yo male with h/o CAD (DES to mid-LAD and distal RCA on 
___, hypertension, mild aortic regurgitation, chronic 
kidney disease, HIV, HCV cirrhosis, COPD, presents with dyspnea 
and left-sided chest tightness starting at 7am morning of 
admission that woke him from sleep. 

# Chest pain - has known history of NSTEMI, but per pt this pain 
is more consistent with COPD exacerbation than NSTEMI pain.  
- ACS ruled out with 3 neg cardiac enzymes, EKG unchanged from 
prior
- P-MIBI as outpatient later this week, then follow-up with Dr. 
___
- cont home plavix, lisinopril, isosorbide mononitrate, aspirin, 
metoprolol
- cont Albuterol-Ipratropium 2 PUFF IH TID, recommend optimizing 
COPD medications to include long-acting medication, at next PCP 
___.

# Hyponatremia - Na on admission was 121, improved with fluid 
restriction to Na 126.  Urine lytes consistent with SIADH.  Has 
history of SIADH with no clear precipitant (no evidence of 
malignancy or medications that typically cause SIADH).  
Asymptomatic.  Appears euvolemic.  
- fluid restrict 1L, liberalize salt intake
- F/U Na as outpatient

# Hyperkalemia - improved after receiving kayexelate, insulin, 
and glucose in ED.  no EKG changes concerning for cardiac 
membrane instability
- Hold lisinopril, PCP may restart if K normalizes
- F/U K as outpatient

# Pancytopenia - chronic pancytopenia likely related to HIV & 
Hep C infection, unremarkable diff, no sign of acute infection

# COPD:  exacerbation likely caused his current presentation
- Continue home albuterol-ipratroprium
- Outpatient follow-up with Dr. ___ for COPD 
management, recommend long-acting inhaled medication

CHRONIC MEDICAL PROBLEMS
# HIV, asymptomatic: Most recent CD4 is 481 (___).  per 
patient well controlled with no evidence of opportunistic 
infections.  
- Cont efavirenz, lamivudine, abacavir     
# HCV cirrhosis: followed by liver unit at ___. pt opted to 
hold on therapy for HCV.  has liver follow-up later this week.
# HTN:  hold lisinopril for now given hyperkalemia, defer to PCP 
whether to restart

# CODE- confirmed full  
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient ___ Health.
1. Loperamide 2 mg PO QID:PRN diarrhea 
2. Nitroglycerin SL 0.4 mg SL PRN chest pain 
may repeat x1 after 30 minutes. 
3. Multivitamins 1 TAB PO DAILY 
4. Desonide 0.05% Cream 1 Appl TP DAILY 
apply to affected area of face x ___ days prn 
5. Albuterol-Ipratropium 2 PUFF IH TID 
6. Aspirin 162 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Efavirenz 600 mg PO DAILY 
9. LaMIVudine 150 mg PO DAILY 
10. Abacavir Sulfate 300 mg PO BID 
11. Metoprolol Tartrate 50 mg PO DAILY 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
13. Pravastatin 40 mg PO DAILY 
14. Lisinopril 10 mg PO DAILY 
15. darifenacin *NF* 7.5 mg Oral DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol-Ipratropium 2 PUFF IH TID 
3. Aspirin 162 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. darifenacin *NF* 7.5 mg Oral DAILY 
6. Efavirenz 600 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. LaMIVudine 150 mg PO DAILY 
9. Loperamide 2 mg PO QID:PRN diarrhea 
10. Metoprolol Tartrate 50 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Nitroglycerin SL 0.4 mg SL PRN chest pain 
may repeat x1 after 30 minutes. 
13. Pravastatin 40 mg PO DAILY 
14. Desonide 0.05% Cream 1 Appl TP DAILY 
apply to affected area of face x ___ days prn 
15. Outpatient Lab Work
Hyperkalemia (276.4), Hyponatremia (276.1)
Please check Na, K, and send results to ___ MD 
___.  Na = 126, K = 5.1
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:  Dyspnea, chest pain
SECONDARY:  chronic obstructive pulmonary disease, coronary 
artery disease, hyponatremia, hyperkalemia, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure caring for you during your recent 
hospitalization for shortness of breath and chest tightness.  
You did not appear to have any emergent heart problems causing 
these symptoms, but given your history of cardiac disease, we 
recommend getting a pharmacologic stress test as an outpatient 
then following up with your outpatient cardiologist.

Please also restrict your water intake to 1.5 L a day if 
possible.  Feel free to liberalize your salt intake as long as 
your shortness of breath does not get worse and you do not 
develop swelling or weight gain.  This should help with your low 
sodiums.

TRANSITION OF CARE ISSUES
- Discuss with your PCP how to optimize your treatment of COPD, 
which may include starting a long-acting inhaled medication
- You should have the levels of sodium and potassium in your 
blood checked and followed by your PCP.  
- You are scheduled for a pharmacologic stress test on ___, 
___, at 9:20.  Please attend the appointment listed 
below.  You will discuss the results of the stress test with 
your outpatient cardiologist

MEDICATION CHANGES
- STOP lisinopril for now - this medication can cause high 
potassium levels.  Discuss with your PCP whether you should 
restart this medication
 
Followup Instructions:
___